US07777047B2
N-{2-[5-(chloromethyl)-1,3-thiazol-2-yl]-4-methyl-1H-indol-7-yl}-N-methylthiophene-2-sulfonamide
N-{2-[5-(Hydroxymethyl)-1,3-thiazol-2-yl]-4-methyl-1H-indol-7-yl}-N-methylthiophene-2-sulfonamide (0.55 g) was dissolved in absolute tetrahydrofuran (25 ml), and this solution was ice-cooled. Thionyl chloride (0.15 ml) and N,N-dimethylformamide (one drop) were added, and the mixture was stirred for 1 hr under ice-cooling, and then at room temperature for 7 hr. The reaction solution was diluted with ethyl acetate, washed with water and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The obtained residue was subjected to silica gel column chromatography (ethyl acetate:hexane=1:1), and the obtained crystals were washed with ethyl acetate-hexane to give the title compound (0.427 g, yield 74%) as pale-yellow crystals. melting point 194-195° C.

reactant | N-{2-[5-(Hydroxymethyl)-1,3-thiazol-2-yl]-4-methyl-1H-indol-7-yl}-N-methylthiophene-2-sulfonamide | 0.55 g | OCC1=CN=C(S1)C=1NC2=C(C=CC(=C2C1)C)N(S(=O)(=O)C=1SC=CC1)C | C18H17N3O3S3
reactant | Thionyl chloride | 0.15 ml | S(=O)(Cl)Cl | Cl2OS
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
catalyst | N,N-dimethylformamide | one drop | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-{2-[5-(chloromethyl)-1,3-thiazol-2-yl]-4-methyl-1H-indol-7-yl}-N-methylthiophene-2-sulfonamide | 0.427 g, yield 74% | ClCC1=CN=C(S1)C=1NC2=C(C=CC(=C2C1)C)N(S(=O)(=O)C=1SC=CC1)C | C18H16ClN3O2S3
